US07435455B2
4-(4-(4-Propylcyclohexyl)cyclohexyl)phenol (0.5 g) was dissolved in a mixed solvent of methylene chloride (5 ml) and chlorobenzene (1 ml), to which was then added dropwise a solution of bromine (0.28 g) in methylene chloride (2 ml) under ice cooling while stirring. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 30 minutes, added in ice water, and then extracted with methylene chloride. An organic layer was washed with water, rinsed with a sodium thiosulfate aqueous solution, and then dried over anhydrous magnesium sulfate. The methylene chloride solution was concentrated in vacuo and then subjected to isolation and purification by silica gel column chromatography, thereby obtaining a white crystal (0.25 g) of 2-bromo-4-(4-(4-propylcyclohexyl)cyclohexyl)phenol.

reactant | 4-(4-(4-Propylcyclohexyl)cyclohexyl)phenol | 0.5 g | C(CC)C1CCC(CC1)C1CCC(CC1)C1=CC=C(C=C1)O | C21H32O
reactant | bromine | 0.28 g | BrBr | Br2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | chlorobenzene | 1 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-(4-(4-propylcyclohexyl)cyclohexyl)phenol | 0.25 g | BrC1=C(C=CC(=C1)C1CCC(CC1)C1CCC(CC1)CCC)O | C21H31BrO
